US07101886B2
N-{4-[2-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-2-BROMO-PHENYL}-ACETAMIDE
A 2 dram vial was charged with 0.09 g (0.2 mmol) of 4-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-2-bromo-phenylamine and 0.87 mL CH2Cl2. This mixture was treated with 36 μL triethylamine (0.26 mmol) and 17 μL acetyl chloride and stirred at rt for 15 h. The reaction was quenched with aqueous 1M NaHCO3, the organic layer separated, dried, and concentrated in vacuo. This gave a quantitative yield of the desired product as a white solid. MS (APCI): 461 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 7.89 (d, J=8 Hz, 1H), 7.77 (d, J=8 Hz, 1H), 7.43 (t, J=7.5 Hz, 1H), 7.32 (t, J=7.5 Hz, 1H), 7.26 (s, 1H), 6.95–6.93 (m, 1H), 6.7 (d, J=8 Hz, 1H), 3.98 (br s, 2H), 3.57–3.55 (m, 4H), 2.72–2.58 (m, 8H).

reactant | 4-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-2-bromo-phenylamine | 0.2 mmol, 0.09 g | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)N)Br | C19H21BrN4S
reactant | triethylamine | 0.26 mmol, 36 μL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 17 μL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 0.87 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[2-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-2-BROMO-PHENYL}-ACETAMIDE | quantitative yield | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)NC(C)=O)Br | C21H23BrN4OS
